US07632832B2
Step C. 1-Phenyl-4-piperidin-4-yl-1,2-dihydro-3H-pyrazol-3-one
Platinum oxide (60 mg) was added to a solution of 1-phenyl-4-pyridin-4-yl-1,2-dihydro-3H-pyrazol-3-one (180 mg, 0.758 mmol) in acetic acid (12 mL), concentrated hydrochloric acid (0.100 mL), and water (5 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (50 psi). After 5 h the mixture was filtered and concentrated to give the title compound. MS 244.3 (M+1).

reactant | 1-phenyl-4-pyridin-4-yl-1,2-dihydro-3H-pyrazol-3-one | 0.758 mmol, 180 mg | C1(=CC=CC=C1)N1NC(C(=C1)C1=CC=NC=C1)=O | C14H11N3O
reactant | water | 5 mL | O | H2O
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 0.100 mL | Cl | ClH
catalyst | Platinum oxide | 60 mg | [Pt]=O
product | 1-Phenyl-4-piperidin-4-yl-1,2-dihydro-3H-pyrazol-3-one | C1(=CC=CC=C1)N1NC(C(=C1)C1CCNCC1)=O | C14H17N3O
